US08202865B2
Step 2: 2-fluoro-4-(5-{4-(2-methylpiperidin-1-yl)-3-[(methylsulfonyl)amino]phenyl}-1,2,4-oxadiazol-3-yl)benzoic acid
The title compound was prepared following procedure described for example 4, step 2, but starting from methyl 2-fluoro-4-(5-{4-(2-methylpiperidin-1-yl)-3-[(methylsulfonyl)amino]phenyl}-1,2,4-oxadiazol-3-yl)benzoate, obtained in step 1 (280 mg; 0.57 mmol). After 18 h, HCl (573.14 μL; 5 M; 2.87 mmol) was added and the mixture was evaporated to dryness. The solid was triturated in water and filtered to afford the title compound as a light yellow powder (220 mg; 80%). 1H NMR (DMSO-d6, 300 MHz) δ 13.6 (bs, 1H), 8.67, (bs, 1H), 8.20 (d, 2.1 Hz, 1H), 8.08, (t, J=7.9 Hz, 1H), 8 (dd, J=8.1, 1.6 Hz, 1H), 7.95-7.90 (m, 2H), 7.55 (d, J=8.4 Hz, 1H), 3.22 (s, 3H), 3.18-3.12 (m, 1H), 2.92-2.88 (m, 1H), 2.65-2.57 (m, 1H), 1.82-1.68 (m, 4H), 1.53-1.44 (m, 2H), 0.81 (d, J=6 Hz, 3H). LC/MS (Method B): 475.3 (M+H)+. HPLC (Method A) Rt 4.68 min (purity: 97.0%). CHN analysis: [C22H23N4O5SF] Calculated: C, 55.69%; H, 4.89%; N, 11.81%. Found: C, 55.41%; H, 4.76%; N, 11.70%.

reactant | methyl 2-fluoro-4-(5-{4-(2-methylpiperidin-1-yl)-3-[(methylsulfonyl)amino]phenyl}-1,2,4-oxadiazol-3-yl)benzoate | FC1=C(C(=O)OC)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)NS(=O)(=O)C | C23H25FN4O5S
reactant | HCl | 2.87 mmol, 5 M, 573.14 μL | Cl | ClH
product | 2-fluoro-4-(5-{4-(2-methylpiperidin-1-yl)-3-[(methylsulfonyl)amino]phenyl}-1,2,4-oxadiazol-3-yl)benzoic acid | 220 mg, 80% | FC1=C(C(=O)O)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)NS(=O)(=O)C | C22H23FN4O5S
